US05316755
The 2-methanesulfonyloxynonane (22.8 g, 102 mmol), triiodophenol (48.8 g, 103 mmol) and potassium carbonate (14.2 g, 103 mmol) were reacted in DMF (206 ml) as per 2-(2,4,6-triiodophenoxy)pentadecane except at an oil bath temperature of 82° C. for 14 hrs. The reaction was processed as for 2-(2,4,6-triiodophenoxy)pentadecane to provide a light brown oil. Flash column chromatography (silica, hexanes) provided 2-(2,4,6-triiodophenoxy)nonane (40.8 g, 68.0%).

reactant | 2-methanesulfonyloxynonane | 102 mmol, 22.8 g | CS(=O)(=O)OC(C)CCCCCCC | C10H22O3S
reactant | triiodophenol | 103 mmol, 48.8 g | C=1C(=CC(=C(C1I)O)I)I | C6H3I3O
reactant | potassium carbonate | 103 mmol, 14.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-(2,4,6-triiodophenoxy)pentadecane | IC1=C(OC(C)CCCCCCCCCCCCC)C(=CC(=C1)I)I | C21H33I3O
solvent | DMF | 206 ml | CN(C)C=O | C3H7NO
product | 2-(2,4,6-triiodophenoxy)nonane | 40.8 g, 68.0% | IC1=C(OC(C)CCCCCCC)C(=CC(=C1)I)I | C15H21I3O
